US07160877B2
In 50 mL of chloroform was dissolved 2.75 g of N-tert-butoxycarbonyl-trans-4-(5-ethoxycarbonyl-2-methylthiopyrimidin-4-yloxy)cyclohexylamine (a compound of Reference Example 9-49 prior to deprotection (hydrochloric acid-dioxane treatment)), 1.73 g of 75%-m-chloroperbenzoic acid was added to the solution, and the mixture was stirred at room temperature for 30 minutes. Then, 1.14 g of dimethylamine hydrochloride and 2.79 mL of triethylamine were added thereto and the mixture was further stirred for 5 hours. An aqueous saturated sodium hydrogencarbonate solution was added to the reaction mixture, and the mixture was stirred. Then, the chloroform layer was collected by separation, dried over anhydrous sodium sulfate and the solvent was removed under reduced pressure. The residue was purified by silica gel flash chromatography (solvent: hexane-chloroform (50:50 to 100:0)) to obtain 2.74 g of N-tert-butoxycarbonyl-trans-4-[5-ethoxycarbonyl-2-(dimethylamino)-pyrimidin- 4-yloxy]cyclohexylamine.

reactant | N-tert-butoxycarbonyl-trans-4-(5-ethoxycarbonyl-2-methylthiopyrimidin-4-yloxy)cyclohexylamine | 2.75 g | C(C)(C)(C)OC(=O)N[C@@H]1CC[C@H](CC1)OC1=NC(=NC=C1C(=O)OCC)SC | C19H29N3O5S
reactant | hydrochloric acid dioxane | Cl.O1CCOCC1
reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | dimethylamine hydrochloride | 1.14 g | Cl.CNC
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 2.79 mL | C(C)N(CC)CC | C6H15N
product | N-tert-butoxycarbonyl-trans-4-[5-ethoxycarbonyl-2-(dimethylamino)-pyrimidin- 4-yloxy]cyclohexylamine | 2.74 g | C(C)(C)(C)OC(=O)N[C@@H]1CC[C@H](CC1)OC1=NC(=NC=C1C(=O)OCC)N(C)C | C20H32N4O5
